US07531532B2
Piperidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide
2-Phenylacetyl chloride (0.068 ml) was dissolved in acetonitrile (5 ml) under a nitrogen atmosphere, and then potassium thiocyanate (100 mg) was added thereto at 60° C., followed by stirring at the same temperature for 1.5 hrs. The reaction mixture was cooled down to room temperature, and then a solution of piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (114 mg) in acetonitrile (3 ml) was added thereto, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1). Fractions containing the target compound were concentrated to give a residue, which was suspended in diethyl ether (5 ml)-hexane (5 ml). The solid was filtered off and dried under aeration to provide the titled compound (88.8 mg, 50.8%) as a pale yellow solid.

reactant | 2-Phenylacetyl chloride | 0.068 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 100 mg | [S-]C#N.[K+]
reactant | piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 114 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCCCC2)C=C1)F | C16H18FN5O2
reactant | hexane | 5 ml | CCCCCC | C6H14
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | Piperidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide | 88.8 mg, 50.8% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C25H25FN6O3S
